US08293923B2
Step 1: (1-cyclohexyl-2-(5-(3-(methoxymethyl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-ylamino)-1H-benzo[d]imidazol-5-yl)methanol
In a small microwave tube added (2-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-ylamino)-1-cyclohexyl-1H-benzo[d]imidazol-5-yl)methanol (52.4 mg, 0.0000918 mol), 3-(methoxymethyl)phenylboronic acid (25.1 mg, 0.000151 mol) and (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium(II) complexed with dichloromethane (1:1) (16.2 mg, 0.0000198 mol). The tube was flushed with argon and the contents were dissolved in 1,4-dioxane (1.5 mL) and 2 M sodium carbonate (150 uL). The reaction was microwaved for 10 minutes at 120° C. The cooled reaction mixture was filtered through a syringe filter and the filter washed 3× with methanol. The combined eluents were concentrated to yield 58 mg of crude product used directly in the next step.

reactant | (2-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-ylamino)-1-cyclohexyl-1H-benzo[d]imidazol-5-yl)methanol | 0.0000918 mol, 52.4 mg | BrC=1C=C2C(=NN(C2=CC1)COCC[Si](C)(C)C)NC1=NC2=C(N1C1CCCCC1)C=CC(=C2)CO | C27H36BrN5O2Si
reactant | 3-(methoxymethyl)phenylboronic acid | 0.000151 mol, 25.1 mg | COCC=1C=C(C=CC1)B(O)O | C8H11BO3
reactant | dichloromethane | 0.0000198 mol, 16.2 mg | ClCCl | CH2Cl2
product | (1-cyclohexyl-2-(5-(3-(methoxymethyl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-ylamino)-1H-benzo[d]imidazol-5-yl)methanol | 58 mg | C1(CCCCC1)N1C(=NC2=C1C=CC(=C2)CO)NC2=NN(C1=CC=C(C=C21)C2=CC(=CC=C2)COC)COCC[Si](C)(C)C | C35H45N5O3Si
